US05079260
A solution of 4,5-dimethyl-9-fluorenecarboxylic acid (4.2 g, 17.8 mmol) in 100 mL of THF was Charged with IM THF solution of BH3 -THF complex (25.0 mL, 25.0 mmol) at 0° C. The reaction mixture was stirred overnight at room temperature then quenched with water (100 mL) and HCl (3 mL). After addition of ethyl acetate (50 mL) the organic layer was separated and washed with 10% potassium carbonate solution, water, brine, dried dried over magnesium sulfate and evaporated to afford 4.5-dimethyl-9-fluorenemethanol (3.0 g, 75.3%).

reactant | 4,5-dimethyl-9-fluorenecarboxylic acid | 17.8 mmol, 4.2 g | CC1=CC=CC=2C(C3=CC=CC(=C3C12)C)C(=O)O | C16H14O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4.5-dimethyl-9-fluorenemethanol | 3.0 g, 75.3% | CC1=CC=CC=2C(C3=CC=CC(=C3C12)C)CO | C16H16O
